US04952602
45 ml of 1.55M n-butyl lithium in hexane are added at a temperature of -70° to -50° C. to a solution of 7.0 g of diisopropylamine in 100 ml of tetrahydrofuran. The mixture is stirred for 30 minutes at a temperature of 0° to 10° C., and then chilled to -70° C. Further, a solution of 5.0 g of 3-(3,4-dimethoxyphenyl)-1-methoxy-1H,3H-pyridino[2,3-c]furan in 20 ml of tetrahydrofuran is added thereto for 10 minutes, and the mixture is stirred at the same temperature for 10 minutes. A solution of 4.2 g of acetic acid and 2.7 g of acetylenedicarboxylic acid dimethyl ester in 20 ml of tetrahydrofuran are added further thereto. The mixture is stirred at the same temperature for 10 minutes. A solution of 4.2 g of acetic acid in 10 ml tetrahydrofuran is added to the mixture at room temperature, and the mixture is stirred for 10 minutes. The reaction mixture is poured into 300 ml of water and extracted with ethyl acetate. The extract is dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography [solvent: hexane-ethyl acetate (1:2)], and the eluate is evaporated under reduced pressure to remove the solvent, whereby 1.8 g of pale brown oil are obtained. Said oil is dissolved in benzene, and 1.6 g of trifluoroacetic acid are added to the solution. The mixture is stirred at room temperature for one hour, and evaporated under reduced pressure to remove the solvent. 100 ml of ethyl acetate is added to the residue, and the mixture is neutralized with 100 ml of aqueous saturated sodium bicarbonate solution. The organic layer is dried and evaporated under reduced pressure to remove the solvent. The resulting pale brown crystals are washed with ether to give 1.3 g of 5-hydroxy-6,7-bis(methoxycarbonyl)-8-(3,4-dimethoxyphenyl)quinoline.

reactant | n-butyl lithium | 1.55M, 45 ml | C(CCC)[Li]
reactant | diisopropylamine | 7.0 g | C(C)(C)NC(C)C | C6H15N
reactant | 3-(3,4-dimethoxyphenyl)-1-methoxy-1H,3H-pyridino[2,3-c]furan | 5.0 g | COC=1C=C(C=CC1OC)C1CC=2C(=COC2)N(C1)OC | C16H19NO4
reactant | acetylenedicarboxylic acid dimethyl ester | 2.7 g | COC(=O)C#CC(=O)OC | C6H6O4
reactant | trifluoroacetic acid | 1.6 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | 300 ml | O | H2O
solvent | acetic acid | 4.2 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4.2 g | C(C)(=O)O | C2H4O2
product | 5-hydroxy-6,7-bis(methoxycarbonyl)-8-(3,4-dimethoxyphenyl)quinoline | 1.3 g | OC1=C2C=CC=NC2=C(C(=C1C(=O)OC)C(=O)OC)C1=CC(=C(C=C1)OC)OC | C21H19NO7
